US08735384B2
Thionyl chloride (0.679 mL, 9.30 mmol) was added to a solution of 2-bromo-3-methylbenzoic acid (2.0 g, 9.30 mmol) and DMF (0.072 mL, 0.930 mmol) in DCM (100 mL) at 0° C. The reaction mixture was allowed to warm to RT and stirred for 1 h and then cooled to 0° C. before DIPEA (3.25 mL, 18.60 mmol) followed by 2-propynylamine (0.766 mL, 11.16 mmol) were added. The resulting solution was stirred for 45 min at 0° C. The reaction mixture was diluted with saturated ammonium chloride and water and then extracted with EtOAc. The combined organic extracts were washed with saturated ammonium chloride, water, saturated sodium bicarbonate, saturated sodium chloride and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the crude material as a tan solid. The crude product was dissolved in dioxane (100 mL) and cooled to 0° C. Sodium hydride (0.409 g, 10.23 mmol) was added and the mixture was stirred at RT for 30 min before bringing to a reflux. After 5 h, the reaction is concentrated. The crude material was purified by silica gel chromatography to provide 2-(2-bromo-3-methylphenyl)-5-methyloxazole.

reactant | Thionyl chloride | 9.30 mmol, 0.679 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-bromo-3-methylbenzoic acid | 9.30 mmol, 2.0 g | BrC1=C(C(=O)O)C=CC=C1C | C8H7BrO2
reactant | DMF | 0.930 mmol, 0.072 mL | CN(C)C=O | C3H7NO
reactant | DIPEA | 18.60 mmol, 3.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-propynylamine | 11.16 mmol, 0.766 mL | C(C#C)N | C3H5N
reactant | Sodium hydride | 10.23 mmol, 0.409 g | [H-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 2-(2-bromo-3-methylphenyl)-5-methyloxazole | BrC1=C(C=CC=C1C)C=1OC(=CN1)C | C11H10BrNO
